### PR TITLE
chore: fix some alignments in Init.Data.List.Basic

### PR DESCRIPTION
**Pull request by Ruben-VandeVelde**
Based on #966, but I think this will be easier to review.

### CODE REVIEW

File: Mathlib/Data/Stream/Init.lean [hunk 1]
```diff
@@ -566,10 +566,10 @@ theorem length_take (n : ℕ) (s : Stream' α) : (take n s).length = n := by
 #align stream.length_take Stream'.length_take
 
 theorem nth_take_succ : ∀ (n : Nat) (s : Stream' α),
```
Comment (negiizhao) [inline Mathlib/Data/Stream/Init.lean:568]:
```suggestion
theorem get?_take_succ : ∀ (n : Nat) (s : Stream' α),
```

**Comment by rwbarton** [comment]
#966 seems to be nearly ready; do we still need this one?

File: Mathlib/Data/Stream/Init.lean [hunk 2]
```diff
@@ -566,10 +566,10 @@ theorem length_take (n : ℕ) (s : Stream' α) : (take n s).length = n := by
...
-    List.nth (take (succ n) s) n = some (nth s n)
+    List.get? (take (succ n) s) n = some (nth s n)
   | 0, s => rfl
   | n + 1, s => by
-    rw [take_succ, add_one, List.nth, nth_take_succ n]; rfl
+    rw [take_succ, add_one, List.get?, nth_take_succ n]; rfl
 #align stream.nth_take_succ Stream'.nth_take_succ
```
Comment (ChrisHughes24) [inline Mathlib/Data/Stream/Init.lean:573]:
```suggestion
#align stream.nth_take_succ Stream'.get?_take_succ
```
